US04261907
To 1.2 lt of refluxing water, 1 ml of 40% aqueous tetrabutylammonium hydroxide, 160 g of 5-chloro-salicylaldehyde and 140 ml of trans-1,4-dichloro-2-butene are added while vigorously stirring, followed by the dropwise addition of the solution of 42 g of sodium hydroxide in 200 ml of water at such a rate that the pH of the mixture is kept between 7 and 8. Thereafter the mixture is refluxed until the pH is about 7, cooled and extracted with methylene chloride. The extract is washed with 5% aqueous sodium hydroxide, dried, evaporated and the residue heated to 30°/0.1 mmHg in order to remove the excess of 1,4-dichloro-2-butene. The residue is taken up in 1 lt of diethyl ether, the solution filtered, the filtrate evaporated and the residue recrystallized from ethyl acetate, to yield the 5-chloro-2-(4-chloro-trans-2-butenyloxy)-benzaldehyde melting at 62°-63°.

reactant | tetrabutylammonium hydroxide | 1 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-chloro-salicylaldehyde | 160 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | trans-1,4-dichloro-2-butene | 140 ml | ClC\C=C\CCl | C4H6Cl2
reactant | sodium hydroxide | 42 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 5-chloro-2-(4-chloro-trans-2-butenyloxy)-benzaldehyde | ClC=1C=CC(=C(C=O)C1)OC\C=C\CCl | C11H10Cl2O2
